US04101667
To the mixture of 0.5g of 2-trifluoromethyl-9-chloro-10,11-dihydrodibenzo[b,f]thiepin-11-ol, 5ml of anhydrous benzene and one drop of anhydrous pyridine were added dropwise with stirring 0.3g of thionyl chloride with ice-cooling and the resulting mixture was reacted at room temperature for 10 minutes, then refluxed for 20 minutes, and freed of benzene under reduced pressure. To the thus obtained residue was added water and the mixture was extracted with benzene. The extract was washed with water, saturated soidum bicarbonate, then water, dried over anhydrous sodium sulfate and freed of benzene to obtain 2-trifluoromethyl-9-chloro-11-chloro-10,11-dihydrodibenzo[b,f]-thiepin as colorless crystals having a melting point of 88°-90° C.

reactant | 2-trifluoromethyl-9-chloro-10,11-dihydrodibenzo[b,f]thiepin-11-ol | 0.5g | FC(C1=CC2=C(SC3=C(CC2O)C(=CC=C3)Cl)C=C1)(F)F | C15H10ClF3OS
reactant | benzene | 5ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 0.3g | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-trifluoromethyl-9-chloro-11-chloro-10,11-dihydrodibenzo[b,f]-thiepin | FC(C1=CC2=C(SC3=C(CC2Cl)C(=CC=C3)Cl)C=C1)(F)F | C15H9Cl2F3S
